US05372931
Into a high pressure reaction vessel (fitted for shaking), tetrahydrofuran (200 ml) was combined with 6-bromo-2-naphthol. The reaction vessel was then charged with gaseous ammonia (800 psi, 56.2 kg/cm2) and warmed to 80° C. for 3 days. The resulting solution was removed by reduced pressure and some of the solid precipitate 6-amino-2-napthol (10 g) was placed (without further purification) into a 500 ml round bottom flask). The solid was completely dissolved into a 50:50 mixture of water:ethanol. The resulting solution was warmed to boiling and acetic anhydride (7 g) was added. After 1 hour of continuous stirring, the solution was cooled and crystals of N-(6-hydroxy-2-naphthyl)acetamide formed (8 g, 63% yield).

reactant | 6-bromo-2-naphthol | BrC=1C=C2C=CC(=CC2=CC1)O | C10H7BrO
reactant | ammonia | N | H3N
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | N-(6-hydroxy-2-naphthyl)acetamide | 63% yield | OC=1C=C2C=CC(=CC2=CC1)NC(C)=O | C12H11NO2
